US03931217
Preparation of 2-(p-anisoyl)-benzaldehyde
A solution of 26 g. of 4'-methoxy-2-hydroxymethylbenzhydrol in 140 ml. of acetic acid and 14.5 g. selenium dioxide was refluxed for 2 hours. The mixture was filtered and the filtrate was made basic. An oil separated which crystallized on standing and was collected. Recrystallization from a mixture of methylene chloride and petroleum ether gave off-white platelets melting at 90°-91°. Ultraviolet maxima (2-propanol) at 221 mμ (ε = 21,600), 258 mμ (ε = 12,400) and 292 mμ (ε = 17,000); infrared absorption (CHCl3) at 1660 cm-1 and at 1700 cm-1.

reactant | 4'-methoxy-2-hydroxymethylbenzhydrol | COC1=CC=C(C(C2=C(C=CC=C2)CO)O)C=C1 | C15H16O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | selenium dioxide | [Se](=O)=O | O2Se
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-(p-anisoyl)-benzaldehyde | C(C1=CC=C(C=C1)OC)(=O)C1=C(C=O)C=CC=C1 | C15H12O3
